US05334225
To 160 ml of methanol, there were added 37.9 g of the 4'-chloro-5'-methyl-2'-nitrophenyl methanesulfonate as obtained in the above (ii) and 80 ml of a 7N aqueous solution of sodium hydroxide, followed by heating under reflux for 20 minutes. After cooling, the reaction mixture was poured into 500 ml of water and neutralized with hydrochloric acid. The crystals thus precipitated were filtered and recrystallized from acetone to give thereby 10.4 g (55 mmol) of 4-chloro-5-methyl-2-nitrophenol as yellow crystals. The yield from 4-chloro-3-methylphenol was 31%.

reactant | hydrochloric acid | Cl | ClH
reactant | 4-chloro-5-methyl-2-nitrophenol | 55 mmol, 10.4 g | ClC1=CC(=C(C=C1C)O)[N+](=O)[O-] | C7H6ClNO3
solvent | water | 500 ml | O | H2O
product | 4-chloro-3-methylphenol | ClC1=C(C=C(C=C1)O)C | C7H7ClO
